US06313153B1
4-Methoxymethoxyphenethylamine (1.58 g, 8.7 mmol) and cyanoacetic acid (0.82 g, 9.6 mmol) were dissolved in dimethylformamide (10 ml) and under ice-cooling and stirring diethylphosphoric cyanide (1.51 ml, 9.6 mmol) and triethylamine (1.34 ml, 9.6 mmol) were sequentially added. After stirring at room temperature for 24 hours, saturated aqueous sodium bicarbonate solution was added to the reaction mixture, extracted with ethyl acetate, washed with water and dried over magnesium sulfate. The solvent was distilled out under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=19:1) to yield 2-cyano-N-(4-methoxymethoxyphenethyl)acetamide (0.97 g, 45%).

reactant | 4-Methoxymethoxyphenethylamine | 8.7 mmol, 1.58 g | COCOC1=CC=C(CCN)C=C1 | C10H15NO2
reactant | cyanoacetic acid | 9.6 mmol, 0.82 g | C(#N)CC(=O)O | C3H3NO2
reactant | triethylamine | 9.6 mmol, 1.34 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-cyano-N-(4-methoxymethoxyphenethyl)acetamide | 0.97 g, 45% | C(#N)CC(=O)NCCC1=CC=C(C=C1)OCOC | C13H16N2O3
